US07435823B2
Step (a) Preparation of 4-nitrophenyl isoxazol-3-ylcarbamate
A solution of 3-amino isoxazole (220 uL, 2.973 mmol) and p-nitrophenyl chloroformate (659 mg, 3.271 mmol) in THF (8 mL) was stirred for 15 min at RT before the solution was concentrated in vacuo. The title compound was used immediately in the following reaction without further purification. MS (ESI, pos. ion) m/z: 250 (M+1). Mass calc'd for C10H7N3O5: 249.18.

reactant | 3-amino isoxazole | 2.973 mmol, 220 uL | NC1=NOC=C1 | C3H4N2O
reactant | p-nitrophenyl chloroformate | 3.271 mmol, 659 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-nitrophenyl isoxazol-3-ylcarbamate | O1N=C(C=C1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H7N3O5
